US04227000
A mixture of ethyl 3-(1-naphthyl)propionate (18.01 g) and ethyl formate (8.88 g) was added to a suspension of sodium hydride (57% dispersion in oil, 4.43 g) in 1,2-dimethoxyethane stirred at 5°, and the mixture was stirred at 5° for one hour and allowed to warm to room temperature. Water (300 ml) was added and the mixture was extracted with chloroform and the residual aqueous phase adjusted to pH 4 with hydrochloric acid: the mixture was extracted with ether and the extracts evaporated to give ethyl 2-formyl-3-(1-naphthyl)-propionate (16.05 g) as an oil.

reactant | ethyl 3-(1-naphthyl)propionate | 18.01 g | C1(=CC=CC2=CC=CC=C12)CCC(=O)OCC | C15H16O2
reactant | ethyl formate | 8.88 g | C(=O)OCC | C3H6O2
reactant | sodium hydride | 4.43 g | [H-].[Na+]
reactant | Water | 300 ml | O | H2O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | ethyl 2-formyl-3-(1-naphthyl)-propionate | 16.05 g | C(=O)C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12 | C16H16O3
